US09193689B2
To a solution of 4-bromomethylphenylboronic acid pinacol ester (564 mg, 1.90 mmol) in acetone (19 mL) was added 2-methylbenzimidazole (377 mg, 2.85 mmol), potassium iodide (16 mg, 0.095 mmol) and K2CO3 (394 mg, 2.85 mmol) and the reaction mixture heated at 60° C. for 3.25 h. The reaction mixture was diluted with H2O and extracted with EtOAc (×2). The organic layers were combined, dried (phase separation cartridge) and concentrated in vacuo. The crude material was purified by reverse phase preparative HPLC-MS to afford 2-Methyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]1H-benzoimidazole as an off-white solid (234 mg, 35%).

reactant | 4-bromomethylphenylboronic acid pinacol ester | 1.90 mmol, 564 mg | BrCC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C13H18BBrO2
reactant | 2-methylbenzimidazole | 2.85 mmol, 377 mg | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | potassium iodide | 0.095 mmol, 16 mg | [I-].[K+]
reactant | K2CO3 | 2.85 mmol, 394 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 19 mL | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | 2-Methyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]1H-benzoimidazole | 234 mg, 35% | CC1=NC2=C(N1CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C21H25BN2O2
